US04299618
One hundred eighty-five and four-tenths parts of tributylamine and 97.8 parts of 2,4-dichlorobenzyl chloride were mixed with 78.5 parts of isopropanol and placed in a reactor equipped with a stirrer, condenser and thermometer. The mixture was heated for 6 hours with stirring at 80° C. after which the isopropanol and excess tributylamine were removed by distillation at 2 mm. and 80° C. 124.2 parts of crude product were obtained. The crude product was dissolved in 300 parts of water, and the water solution was washed with about 50 parts of hexane. The hexane was separated from the water and the water was removed by distillation, giving a recovery from the wash step of 67% tributyl-2,4-dichlorobenzylammonium chloride. Refractive index at 24° C., 1.529; Ionic Cl (Calc.) 9.31%; Cl (found) 9.34% (Volhard).

reactant | tributylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | tributyl-2,4-dichlorobenzylammonium chloride | 67% | [Cl-].C(CCC)[N+](CC1=C(C=C(C=C1)Cl)Cl)(CCCC)CCCC | InChI=1S/C19H32Cl2N.ClH/c1-4-7-12-22(13-8-5-2,14-9-6-3)16-17-10-11-18(20)15-19(17)21;/h10-11,15H,4-9,12-14,16H2,1-3H3;1H/q+1;/p-1
